US08030500B2
4-Fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 12 in 46% yield starting from 1-(3-bromophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (56.2 mg, 0.12 mmol), pyrimidin-5-ylboronic acid (17.0 mg, 0.14 mmol), PdCl2(dppf)-CH2Cl2 adduct (10.2 mg, 0.01 mmol), K2CO3 (aq) (0.19 mL, 0.37 mmol).

reactant | 1-(3-bromophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.12 mmol, 56.2 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C20H12BrF4N3
reactant | pyrimidin-5-ylboronic acid | 0.14 mmol, 17.0 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | K2CO3 | 0.37 mmol, 0.19 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.01 mmol, 10.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-Fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 46% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=CC=C1)C=1C=NC=NC1)N | C24H15F4N5
